US04008264
3,4-dimethyl-thiobenzamide
At a temperature as indicated in Example 1, 59 g of potassium thiocyanate (0.6 mol) and 79.5 g of o-xylene (0.75 mol) are stirred with 0.5 l of 98% hydrofluoric acid. and the mixture is then stirred for 10 hours at room temperature. Subsequently, the batch is poured onto ice, the precipitated product is suction-filtered after having been stirred for one-half hour, and the greater part of the non-reacted o-xylene (15 g) is separated from the still moist filter cake by steam distillation. The distillation residue is subsequently suction-filtered and dried. The yield of dimethylthiobenzamide having a melting point of 120° - 125° C is 99 g and therefore quantitative, relative to the potassium thiocyanate used.

reactant | potassium thiocyanate | 0.6 mol, 59 g | [S-]C#N.[K+]
reactant | o-xylene | 0.75 mol, 79.5 g | CC=1C=CC=CC1C | C8H10
reactant | hydrofluoric acid | 0.5 l | F | FH
product | 3,4-dimethyl-thiobenzamide | CC=1C=C(C(=S)N)C=CC1C | C9H11NS
